US07807676B2
Part B: A solution of tert-butyl 4-(2-oxo-2-(pyridin-2-yl)ethyl)piperazine-1-carboxylate (1.46 g, 4.78 mmol) and N,N-dimethylformamide dimethyl acetal (10.00 mL, 75 mmol) was heated at reflux for 5 h. After cooling to room temperature the mixture was concentrated under vacuum. The residue was dissolved in 20 mL of ethanol. To this solution was added anhydrous hydrazine (1.50 mL, 47.8 mmol), and the mixture was heated at reflux for 2 h. After cooling to room temperature the reaction mixture was concentrated under vacuum, and the residue was dissolved in ethyl acetate. The solution then was washed with aqueous sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 1-5% isopropanol/chloroform w/0.5% conc. ammonia) provided 0.600 g (38%) of tert-butyl 4-(3-(pyridin-2-yl)-1H-pyrazol-4-yl)piperazine-1-carboxylate as an oil; Mass Spec.: m/e: 330.30 (M+H)+ [calc'd: 330.19]; 1H NMR (300 MHz, DMSO-D6) δ 13.19 (br s, 1H), 8.60 (m, 1H), 8.09 (m, 1H), 7.90 (m, 1H), 7.53 (m, 1H), 7.31 (m, 1H), 3.50 (m, 4H), 2.82 (m, 4H), 1.43 (s, 9H).

reactant | tert-butyl 4-(2-oxo-2-(pyridin-2-yl)ethyl)piperazine-1-carboxylate | 4.78 mmol, 1.46 g | O=C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C16H23N3O3
reactant | N,N-dimethylformamide dimethyl acetal | 75 mmol, 10.00 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine | 47.8 mmol, 1.50 mL | NN | H4N2
product | tert-butyl 4-(3-(pyridin-2-yl)-1H-pyrazol-4-yl)piperazine-1-carboxylate | 0.600 g, 38% | N1=C(C=CC=C1)C1=NNC=C1N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N5O2
